US06376490B1
Lithium diisopropylamide mono(tetrahydrofuran) (1.5M in cyclohexane, 6.18 mL, 9.26 mmol) was added to a stirred suspension of 6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 1, 2.0 g, 7.72 mmol) in dry tetrahydrofuran (150 mL) at −78° C., under nitrogen. After 1 hour at −78° C., trimethyl borate (1.47 mL, 2.0 g, 19.3 mmol) was added. The solution was stirred for a further 1 hour and then left to reach room temperature over 18 hours. Water (50 mL) was added, the solution was acidified to pH 1 with 2M aqueous hydrochloric acid solution and extracted with dichloromethane (3×150 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, by gradient elution using dichloromethane:methanol (100:0 changing to 99:1, by volume) as the eluent to afford 6,7-dichloro-2,3-dimethoxyquinoxaline-5-boronic acid (0.610 g, 26%) as a light brown solid.

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | 9.26 mmol, 1.5M, 6.18 mL | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 6,7-dichloro-2,3-dimethoxyquinoxaline | 7.72 mmol, 2.0 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)OC | C10H8Cl2N2O2
reactant | trimethyl borate | 19.3 mmol, 1.47 mL, 2.0 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | Water | 50 mL | O | H2O
product | 6,7-dichloro-2,3-dimethoxyquinoxaline-5-boronic acid | 0.610 g, 26% | ClC1=C(C=2N=C(C(=NC2C=C1Cl)OC)OC)B(O)O | C10H9BCl2N2O4
